US08476300B2
1-(2-(4-(2-(5-(ethylsulfonyl)thiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine hydrochloride
Add 1-(2-(4-(2-(5-(ethylthio)thiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine (226 mg, 0.43 mmol), tetrahydrofuran (8.7 mL) and methanol (8.7 mL) to a round bottom flask under nitrogen. Cool the resulting solution to 0° C. and add a solution of potassium peroxymonosulfate sulfate (535 mg. 0.87 mmol) in water (4.5 mL). Stir the resulting mixture at 0° C. for 30 min. Allow the mixture to warm to room temperature and stir for 1 hour. Load the mixture onto an SCX acidic ion exchange column. Flush column with a 1:1 mixture of methanol and dichloromethane then elute with a 1:1 mixture of 2M ammonia in methanol and dichloromethane. Concentrate the ammonia containing eluent in vacuo to give an off white foam. Dissolve the foam in dichloromethane and treat with HCl (1M in ether; 900 uL). Concentrate the resulting mixture in vacuo to obtain the title compound (142 mg, 0.24 mmol): mass spectrum (m/z): 552 (M+1-HCl).

reactant | 1-(2-(4-(2-(5-(ethylthio)thiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.43 mmol, 226 mg | C(C)SC1=CC=C(S1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C30H33NO3S2
reactant | tetrahydrofuran | 8.7 mL | O1CCCC1 | C4H8O
reactant | potassium peroxymonosulfate sulfate | 0.87 mmol, 535 mg | S(=O)(=O)([O-])O.S(=O)(=O)(OO)O.[K+]
reactant | HCl | 1M, 900 uL | Cl | ClH
solvent | water | 4.5 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 8.7 mL | CO | CH4O
product | 1-(2-(4-(2-(5-(ethylsulfonyl)thiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine hydrochloride | 0.24 mmol, 142 mg | Cl.C(C)S(=O)(=O)C1=CC=C(S1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | InChI=1S/C30H33NO5S2.ClH/c1-3-38(32,33)29-16-15-28(37-29)27-13-7-22-21-25(34-2)12-14-26(22)30(27)36-24-10-8-23(9-11-24)35-20-19-31-17-5-4-6-18-31;/h7-16,21H,3-6,17-20H2,1-2H3;1H
